US09284333B2
A mixture of 1-pyrimidin-2-yl-ethylamine hydrochloride (50 mg, 0.313 mmol), triethylamine (95 mg, 1 mmol) and cyclopropylmethyl bromide (0.034 ml, 0.344 mmol) in acetonitrile was stirred at 80° C. overnight. After evaporation of the solvents, addition of aqueous sodium hydrogencarbonate, extraction (3 times with dichloromethane), drying of the combined organic layers over sodium sulfate and evaporation of the solvents, crude cyclopropylmethyl-(1-pyrimidin-2-yl-ethyl)-amine was obtained which was used immediately in the next step without further purification.

reactant | 1-pyrimidin-2-yl-ethylamine hydrochloride | 0.313 mmol, 50 mg | Cl.N1=C(N=CC=C1)C(C)N
reactant | triethylamine | 1 mmol, 95 mg | C(C)N(CC)CC | C6H15N
reactant | cyclopropylmethyl bromide | 0.344 mmol, 0.034 ml | C1(CC1)CBr | C4H7Br
solvent | acetonitrile | C(C)#N | C2H3N
product | cyclopropylmethyl-(1-pyrimidin-2-yl-ethyl)-amine | C1(CC1)CNC(C)C1=NC=CC=N1 | C10H15N3
